US06048882
In 10 ml of THF was dissolved 4.56 g of farnesylgeranylgeranyl bromide, 3.01 g of piperonylamine was added and stirred at room temperature for one hour. To the reaction mixture was added water and extracted with ethyl acetate. The extract was washed with water and then brine, dried over magnesium sulfate and then concentrated. The concentrate was purified by silica gel column chromatography (using as a developing solvent hexane-ethyl acetate (4:1)→ethyl acetate) to give 1.14 g of N-farnesylgeranylgeranylpiperonylamine as a yellow liquid.

reactant | farnesylgeranylgeranyl bromide | 4.56 g | C(C=C(C)CCC=C(C)CCC=C(C)C)C/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CBr)/C)/C)/C)/C | C35H57Br
reactant | piperonylamine | 3.01 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-farnesylgeranylgeranylpiperonylamine | 1.14 g | C(C=C(C)CCC=C(C)CCC=C(C)C)C/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CNCC1=CC=2OCOC2C=C1)/C)/C)/C)/C | C43H65NO2
